US05453423
A solution of 1 g of N-(carboxymethylcarbonyl)paratoluenesulphonamide in 30 ml of acetonitrile is added, at room temperature and under stirring, with 0.97 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride and 1.56 g of (-)-N'-[pyrrolidin-2-yl)carbonyl]-N-[2,6-bis(pyrrolidin-1-yl)pyrimidin-4-yl]piperazine, in this succession. After 3 hours the reaction mixture is added with 70 ml of water and extracted with ethyl acetate (3×20 ml). The combined organic extracts are washed with water (3×10 ml), dried over sodium sulfate and solvent is evaporated off under reduced pressure. The residue (1.5 g) is purified by silica gel chromatography (eluent 9.5:0.5 AcOEt/MeOH), to obtain 0.95 g of (-)-N'-[(1-(paratoluenesulphonamidocarbonyl-methylcarbonyl)pyrrolidin-2-yl)carbonyl]-N-[2,6-bis(pyrrolidin-1-yl)pyrimidin-2-yl]piperazine, m.p. 170° C., [α]D =-26.9° (c=2.06 in EtOH).

reactant | N-(carboxymethylcarbonyl)paratoluenesulphonamide | 1 g | C(=O)(O)CC(=O)NS(=O)(=O)C1=CC=C(C=C1)C | C10H11NO5S
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.97 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N-[2,6-bis(pyrrolidin-1-yl)pyrimidin-4-yl]piperazine | N1(CCCC1)C1=NC(=CC(=N1)N1CCNCC1)N1CCCC1 | C16H26N6
reactant | water | 70 ml | O | H2O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | (-)-N'-[(1-(paratoluenesulphonamidocarbonyl-methylcarbonyl)pyrrolidin-2-yl)carbonyl]-N-[2,6-bis(pyrrolidin-1-yl)pyrimidin-2-yl]piperazine | 0.95 g | C1(=CC=C(C=C1)S(=O)(=O)NC(=O)CC(=O)N1C(CCC1)C(=O)N1CCN(CC1)C1(NC(=CC=N1)N1CCCC1)N1CCCC1)C | C31H44N8O5S
